US07256297B2
Preparation of (R)-t-Butyl isobutyl sulfoxide:
Preparation of (S)-t-butyl methyl sulfoxide from (2S,4S,5R)-3-(2,4,6-mesitylsulfonyl)-3,3a,8,8a-tetrahydro-1-oxa-2-thia-3-aza-cyclopenta[a]indene 2-oxide (one pot procedure): A solution of (2S,4S,5R)-3-(2,4,6-mesitylsulfonyl)-3,3a,8,8a-tetrahydro-1-oxa-2-thia-3-aza-cyclopenta[a]indene 2-oxide (1.44 g, 3.82 mmol) in THF at −15° C. was slowly added to t-BuMgCl (4.0 mL, 1.0M) in THF, and the reaction mixture was stirred (1-2 hours) until the reaction complete as monitored by TLC. Methyl magnesium bromide (4.4 mL, 1.0 M) in THF was then added, the reaction mixture was warmed to room temperature and stirred for 1-2 hours. The reaction was monitored by TLC. After the reaction mixture was cooled to 0° C., the reaction was quenched by addition of saturated aq. NH4Cl (5 mL), stirred and diluted with EtOAc (5 mL). The aqueous phase was extracted with EtOAc (5 mL×2) and the organic solvent was evaporated. The residue was purified on silica gel eluted with EtOAc/MeOH (8:2) to give the title product (0.38 g, 83%).

reactant | (S)-t-butyl methyl sulfoxide | C[S@](=O)C(C)(C)C | C5H12OS
reactant | t-BuMgCl | 1.0M, 4.0 mL | C(C)(C)(C)[Mg]Cl
reactant | Methyl magnesium bromide | 1.0 M, 4.4 mL | C[Mg]Br
solvent | THF | C1CCOC1 | C4H8O
product | (R)-t-Butyl isobutyl sulfoxide | 0.38 g, 83% | C(C(C)C)[S@@](=O)C(C)(C)C | C8H18OS
